US07795436B2
cis-8-(2,4-Dichloro-phenyl)-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene
The title compound was prepared as a white solid (22 mg, 0.069) by following the procedures of example 5 from cis-8-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (51 mg, 0.15 mmol), Et3SiH (79 mg, 0.68 mmol) and trifluoroacetic acid (175 mg, 1.5 mmol): MS (ES) 318.1 (M+H).

reactant | cis-8-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.15 mmol, 51 mg | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2[C@H]3CNCC[C@H]3C(C12)=O | C18H15Cl2NO
reactant | Et3SiH | 0.68 mmol, 79 mg | [SiH](CC)(CC)CC | C6H16Si
reactant | trifluoroacetic acid | 1.5 mmol, 175 mg | FC(C(=O)O)(F)F | C2HF3O2
product | cis-8-(2,4-Dichloro-phenyl)-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2[C@H]3CNCC[C@H]3CC12 | C18H17Cl2N
